US08067448B2
4-Cyano-N′-((2R,3R)-2-(4-cyano-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)benz-ohydrazide
To a pre-cooled (−30° C.) solution of (2R,3R)-2-(4-cyano-3-(trifluoromethyl)-phenylamino)-3-hydroxybutanoic acid (1.05 g, 3.64 mmol) and 4-cyanobenzohydrazide (587 mg, 3.64 mmol) in anhydrous THF (60 mL) was added 1-Hydroxybenzotriazole monohydrate (563 mg, 3.64 mmol) and N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide-HCl (1.40 g, 7.29 mmol) at −30° C. followed by triethylamine (1.02 mL, 7.29 mmol). The reaction mixture warmed to room temperature and stirred for 17 h, then quenched with 5% aq. citric acid (150 mL). The solution was extracted with EtOAc (150 mL). The organic extract was washed with 5% aq. citric acid (2×80 mL), sat. aq. NaHCO3 (3×80 mL), H2O (2×100 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide the title compound as an off white solid (1.57 g, 100%): 1H NMR (400 MHz, acetone-d6, δ in ppm) 8.10 (dm, J=8.8 Hz, 2H), 7.94 (dm, J=8.8 Hz, 2H), 7.73 (d, J=8.6 Hz, 1H), 7.31 (d, J=2.3 Hz, 1H), 7.07 (dd, J=2.3, 8.6 Hz, 1H), 6.66 (d, J=7.2 Hz, 1H), 4.26-4.18 (m, 2H), 1.35 (d, J=6.3 Hz, 3H).

reactant | (2R,3R)-2-(4-cyano-3-(trifluoromethyl)-phenylamino)-3-hydroxybutanoic acid | 3.64 mmol, 1.05 g | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)O)[C@@H](C)O)C(F)(F)F | C12H11F3N2O3
reactant | 4-cyanobenzohydrazide | 3.64 mmol, 587 mg | C(#N)C1=CC=C(C(=O)NN)C=C1 | C8H7N3O
reactant | 1-Hydroxybenzotriazole monohydrate | 3.64 mmol, 563 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide-HCl | 7.29 mmol, 1.40 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 7.29 mmol, 1.02 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-Cyano-N′-((2R,3R)-2-(4-cyano-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)benz-ohydrazide | C(#N)C1=CC=C(C(=O)NNC([C@@H]([C@@H](C)O)NC2=CC(=C(C=C2)C#N)C(F)(F)F)=O)C=C1 | C20H16F3N5O3
